* C:\Users\victo\Desktop\GA-with-LTSpice-Tutorial\Tutorial\Sims\sims_comparator\comparator_0.asc
M1 Vout N001 0 0 NMOS l={L1} w={W1} ad={W1*L1} as={W1*L1} pd={2*W1+2*L1} ps={2*W1+2*L1} m=1
M2 Vdd Vin Vout Vdd PMOS l={L2} w={W2} ad={W2*L2} as={W2*L2} pd={2*W1+2*L1} ps={2*W1+2*L1} m=1
V1 Vdd 0 1.8
V2 N001 0 {Vcomp}
V3 Vin 0
.model NMOS NMOS
.model PMOS PMOS
.lib D:\Documents\LTspiceXVII\lib\cmp\standard.mos
.step param n list 1 2 3 4 5 6 7 8 9 10
.param W1=table(n,1,3.1u,2,3.1u,3,3.1u,4,3.1u,5,3.2u,6,3.1u,7,3.3u,8,3.1u,9,3.2u,10,3.1u)
.param W2=table(n,1,2.7u,2,2.5u,3,2.7u,4,2.8u,5,2.7u,6,2.7u,7,2.7u,8,2.7u,9,2.7u,10,2.6u)
.param Vcomp=table(n,1,861.0m,2,861.0m,3,861.0m,4,561.0m,5,811.0m,6,861.0m,7,1.0,8,861.0m,9,861.0m,10,561.0m)
.param L1=table(n,1,2.2u,2,2.3u,3,2.3u,4,2.3u,5,2.3u,6,2.3u,7,2.1u,8,2.3u,9,2.2u,10,2.3u)
.param L2=table(n,1,3.6u,2,3.6u,3,3.6u,4,3.6u,5,3.6u,6,3.6u,7,3.6u,8,3.6u,9,3.6u,10,3.4u)
.dc V3 0 1.8 0.01
* All parameters that will be optimized\nshould be listed in tables\nwith arbitrary values.
.backanno
.end
