* C:\Users\victo\Desktop\GA-with-LTSpice-Tutorial\Tutorial\Sims\sims_comparator\comparator_7.asc
M1 Vout N001 0 0 NMOS l={L1} w={W1} ad={W1*L1} as={W1*L1} pd={2*W1+2*L1} ps={2*W1+2*L1} m=1
M2 Vdd Vin Vout Vdd PMOS l={L2} w={W2} ad={W2*L2} as={W2*L2} pd={2*W1+2*L1} ps={2*W1+2*L1} m=1
V1 Vdd 0 1.8
V2 N001 0 {Vcomp}
V3 Vin 0
.model NMOS NMOS
.model PMOS PMOS
.lib D:\Documents\LTspiceXVII\lib\cmp\standard.mos
.step param n list 1 2 3 4 5 6 7 8 9 10
.param W1=table(n,1,1.9u,2,2.1u,3,1.9u,4,1.9u,5,1.9u,6,1.9u,7,1.9u,8,1.9u,9,1.9u,10,1.9u)
.param W2=table(n,1,2.9u,2,2.9u,3,2.9u,4,2.9u,5,2.9u,6,2.7u,7,2.9u,8,2.9u,9,2.9u,10,2.9u)
.param Vcomp=table(n,1,1.0,2,1.0,3,1.1,4,1.2,5,1.1,6,917.0m,7,942.0m,8,1.0,9,1.1,10,1.0)
.param L1=table(n,1,1.3u,2,1.3u,3,1.1u,4,1.3u,5,1.2u,6,1.3u,7,1.3u,8,1.3u,9,1.1u,10,1.3u)
.param L2=table(n,1,2.8u,2,2.9u,3,2.8u,4,2.8u,5,2.8u,6,2.8u,7,2.8u,8,2.8u,9,2.7u,10,2.8u)
.dc V3 0 1.8 0.01
* All parameters that will be optimized\nshould be listed in tables\nwith arbitrary values.
.backanno
.end
